US06235787B1
In an analogous manner to that described in Example 1, part (ii), starting from 0.3 g of (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-4-methyl-2′-phenylvalerohydrazide and 0.543 g of benzylsulphonyl chloride there was obtained 0.316 g of (E)-2′-(benzylsulphonyl)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-4-methyl-2′-phenylvalerohydrazide in the form of a white solid.

reactant | (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-4-methyl-2′-phenylvalerohydrazide | 0.3 g | C(C)(C)(C)OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NNC1=CC=CC=C1)CC(C)C | C27H36N2O3
reactant | benzylsulphonyl chloride | 0.543 g | C(C1=CC=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
product | (E)-2′-(benzylsulphonyl)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-4-methyl-2′-phenylvalerohydrazide | 0.316 g | C(C1=CC=CC=C1)S(=O)(=O)N(NC([C@H](CC(C)C)[C@H](C\C=C\C1=CC=CC=C1)C(=O)OC(C)(C)C)=O)C1=CC=CC=C1 | C34H42N2O5S
